US04906643
To a stirred solution of 5.01 parts of cis-4-amino-5-chloro-N-[1-(2-hydroxyethyl)-3-methoxy-4-piperidinyl]-2-methoxybenzamide in 112.5 parts of trichloromethane were added 1.33 parts of pyridine and 2 parts of thionyl chloride. The whole was stirred and heated for 7 hours at 50° C. and subsequently stirred overnight at room temperature. The reaction mixture was washed with a sodium hydroxide solution and water. The product was extracted with trichloromethane. The extract was dried, filtered and evaporated, yielding 9 parts of cis-4-amino-5-chloro-N-[1-(2-chloroethyl)-3- methoxy-4-piperidinyl]-2-methoxybenzamide monohydrate as a residue (interm. 15).

reactant | cis-4-amino-5-chloro-N-[1-(2-hydroxyethyl)-3-methoxy-4-piperidinyl]-2-methoxybenzamide | NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCO)OC)C=C1Cl)OC | C16H24ClN3O4
reactant | trichloromethane | ClC(Cl)Cl | CHCl3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | cis-4-amino-5-chloro-N-[1-(2-chloroethyl)-3- methoxy-4-piperidinyl]-2-methoxybenzamide monohydrate | O.NC1=CC(=C(C(=O)N[C@@H]2[C@@H](CN(CC2)CCCl)OC)C=C1Cl)OC | InChI=1S/C16H23Cl2N3O3.H2O/c1-23-14-8-12(19)11(18)7-10(14)16(22)20-13-3-5-21(6-4-17)9-15(13)24-2;/h7-8,13,15H,3-6,9,19H2,1-2H3,(H,20,22);1H2/t13-,15+;/m0./s1
